US04544770
A suspension of 46.6 g of water-moist Raney-nickel and 518 mg of 1,2-bis(2-hydroxyethylthio)ethane in 1 l of methanol was pre-hydrogenated at 30° C. under normal pressure in a sulphonation flask provided with a gasification stirrer. Subsequently, a solution of 320 g of (4R,2E)-[5-(4-hydroxy-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-2-penten-4-ynyl]triphenylphosphonium chloride in 2.1 l of methanol was added thereto and the mixture was hydrogenated at 40° C. and 1.1 bar of hydrogen. 15.6 l of hydrogen were taken up within 5 hours. The catalyst was filtered off and the filtrate was concentrated to a weight of 575 g. The product was crystallized by slowly pouring in 9.6 l of ethyl acetate. The suspension was stirred at room temperature for 2 hours and filtered. The crystals were washed with a small amount of methanol/ethyl acetate and dried at 60° C./0.01 mbar, there being obtained 272.2 g (84.7%) of [5-(4-hydroxy-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-2,4-pentadienyl]triphenylphosphonium chloride (containing 97% of the (4R,2E,4Z)-isomer and 2% of the (4R,2Z,4Z)-isomer in accordance with HPLC) of melting point 211°-212° C. and [α]D20 =-26.2° (c=1, chloroform).

reactant | water | 46.6 g | O | H2O
reactant | (4R,2E)-[5-(4-hydroxy-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-2-penten-4-ynyl]triphenylphosphonium chloride | 320 g | [Cl-].O[C@@H]1CC(=C(C(C1)(C)C)C#C/C(=C/C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C)C
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 15.6 l | [H][H] | H2
solvent | methanol | 1 l | CO | CH4O
solvent | methanol | 2.1 l | CO | CH4O
catalyst | 1,2-bis(2-hydroxyethylthio)ethane | 518 mg | OCCSCCSCCO | C6H14O2S2
product | [5-(4-hydroxy-2,6,6-trimethyl-1-cyclohexen-1-yl)-3-methyl-2,4-pentadienyl]triphenylphosphonium chloride | 272.2 g, 84.7% | [Cl-].OC1CC(=C(C(C1)(C)C)C=CC(=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | InChI=1S/C33H38OP.ClH/c1-26(20-21-32-27(2)24-28(34)25-33(32,3)4)22-23-35(29-14-8-5-9-15-29,30-16-10-6-11-17-30)31-18-12-7-13-19-31;/h5-22,28,34H,23-25H2,1-4H3;1H/q+1;/p-1
